US07521461B2
b) 2-[(4-{2-[(Benzylsulfonyl)amino]ethyl}phenoxy)methyl]benzoic acid
Lithium hydroxide (2 mg, 0.077 mmol) in water (0.5 ml) was added into methyl 2-[(4-{2-[(benzylsulfonyl)amino]ethyl}phenoxy)methyl]benzoate (17 mg, 0.038 mmol) dissolved in THF (1 ml). The mixture was then in irradiated in a microwave oven (Smith Synthesizer) at 150° C. for 7 minutes and then evaporated to remove THF. The residue was acidified with 1% hydrochloric acid, pH˜4, and extracted with ethyl acetate (×2). The organic extracts were combined and dried with MgSO4 and then evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 500 mg/3 ml) using DCM, then MeOH/DCM (0.5:99.5) as eluant gave 10 mg the desired product, yield 61%.

reactant | Lithium hydroxide | 0.077 mmol, 2 mg | [OH-].[Li+]
reactant | methyl 2-[(4-{2-[(benzylsulfonyl)amino]ethyl}phenoxy)methyl]benzoate | 0.038 mmol, 17 mg | C(C1=CC=CC=C1)S(=O)(=O)NCCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C24H25NO5S
solvent | water | 0.5 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-[(4-{2-[(Benzylsulfonyl)amino]ethyl}phenoxy)methyl]benzoic acid | 10 mg, yield 61% | C(C1=CC=CC=C1)S(=O)(=O)NCCC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1 | C23H23NO5S
